US08304419B2
Step B: 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(diacetylamino)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
Acetyl chloride (0.10 ml, 1.41 mmol) was added to a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-[(trimethyl-λ5-phosphanylidene)amino]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.11 g, 0.16 mmol) in CH2Cl2 (1.0 ml) and the reaction mixture was stirred at 45° C. for 1 h. Sat'd aqueous NaHCO3 was added and the aqueous layer was extracted with EtOAc. The organic layers were combined, dried (Na2SO4), filtered, concentrated and purified by silica gel chromatography (0-40% EtOAc/hexanes) to provide the title compound (0.047 g, 44%) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.32-7.35 (m, 1H) 7.28-7.32 (m, 2H) 7.19 (t, J=6.04 Hz, 1H) 7.13 (t, J=2.01 Hz, 1H) 7.01 (s, 1H) 5.56 (s, 2H) 4.67 (d, J=6.13 Hz, 2H) 3.55-3.63 (m, 2H) 2.30 (s, 6H) 0.80-0.89 (m, 2H)-0.04 (s, 9H).

reactant | Acetyl chloride | 1.41 mmol, 0.10 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-[(trimethyl-λ5-phosphanylidene)amino]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.16 mmol, 0.11 g | ClC=1N=C(N(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)COCC[Si](C)(C)C)N=P(C)(C)C | C27H32Cl3FN5O3PSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 1.0 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(diacetylamino)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.047 g, 44% | ClC=1N=C(N(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)COCC[Si](C)(C)C)N(C(C)=O)C(C)=O | C28H29Cl3FN5O5Si
